US05326905
1. 4-[((1-methyl)cyclohexyl)methoxy]toluene
To a cooled (0° C.), stirred solution of 8.4 g (0.15 mole) of potassium hydroxide in 100 ml of MeOH was added 13.5 g (0.12 mole) of 4-methylphenol over a 15 minute period. The reaction was stirred at room temperature for 0.5 hour and MeOH was evaporated to afford a solid. A solution of this solid, 28.2 g (0.1 mole) of ((1-methyl)cyclohexyl)methyl tosylate and 1.4 g of potassium iodide were heated at 150° C. for 5 hours. The reaction was cooled to room temperature, poured onto ice-water and extracted with EtOAc. The EtOAc layer was washed with 2N aqueous NaOH, brine, dried over MgSO4, filtered and evaporated. The resulting oil was filtered through a plug of silica gel to give 20 g of product as an oil.

reactant | potassium hydroxide | 0.15 mole, 8.4 g | [OH-].[K+]
reactant | 4-methylphenol | 0.12 mole, 13.5 g | CC1=CC=C(C=C1)O | C7H8O
reactant | ((1-methyl)cyclohexyl)methyl tosylate | 0.1 mole, 28.2 g | S(=O)(=O)(OCC1(CCCCC1)C)C1=CC=C(C)C=C1 | C15H22O3S
solvent | MeOH | 100 ml | CO | CH4O
catalyst | potassium iodide | 1.4 g | [I-].[K+]
product | 4-[((1-methyl)cyclohexyl)methoxy]toluene | 20 g | CC1(CCCCC1)COC1=CC=C(C=C1)C | C15H22O
